US06677368B2
To a solution of 4-phenyl-1,3-dihydro-indol-2-one (41.9 mg, 0.20 mmol) and 5-formyl-2-methyl-4-[3-(4-methyl-piperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester (64.2 mg, 0.20 mmol) in ethanol (1 mL) was added piperidine (0.1 mL). The reaction mixture was stirred at 70° C. for over-night. The solvent was evaporated and the residue was purified on a silica gel column eluting with MeOH—CH2CL2 1:9 to provide 2-methyl-4-[3-(4-methyl-piperazin-1-yl)-propyl]-5-(2-oxo-4-phenyl-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic acid ethyl ester as a yellow solid (30 mg, 29%).

reactant | 4-phenyl-1,3-dihydro-indol-2-one | 0.20 mmol, 41.9 mg | C1(=CC=CC=C1)C1=C2CC(NC2=CC=C1)=O | C14H11NO
reactant | 5-formyl-2-methyl-4-[3-(4-methyl-piperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 0.20 mmol, 64.2 mg | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=O)C | C17H27N3O3
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-methyl-4-[3-(4-methyl-piperazin-1-yl)-propyl]-5-(2-oxo-4-phenyl-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic acid ethyl ester | 30 mg, 29% | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=C1C(NC2=CC=CC(=C12)C1=CC=CC=C1)=O)C | C31H36N4O3
